* Schematics Netlist *



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_RL         0 out  1k  
R_Ri         0 i  1meg  
R_Rs         s i  1meg  
E_E1         out 0 i 0 10
C_Cf         i out  100n  
