* Schematics Netlist *



V_V1         s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
*R_Ri         0 i  1meg  
C_Ci         s i  100n  
R_Rf         i out  10K  
E_E1         out 0 0 i 100K
R_RL         0 out  1k  
